US06518257B1
(iii) Production of 3′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-N-methyl[1,1′-biphenyl]-3-carboxamide
By the reaction in the same manner as in Example 4-(iii) using 3′-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl[1,1′-biphenyl]-3-carboxamide (576 mg) and pyridine hydrochloride (0.22 g), the title compound (55 mg) was obtained as colorless powder crystals.

reactant | 3′-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl[1,1′-biphenyl]-3-carboxamide | 576 mg | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)NC | C40H37N3O2
reactant | pyridine hydrochloride | 0.22 g | Cl.N1=CC=CC=C1
product | 3′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-N-methyl[1,1′-biphenyl]-3-carboxamide | 55 mg | OC(C(C)C)(C=1N=CNC1)C=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)NC | C21H23N3O2
